US04490292
2-(2,4-Dichlorophenylmethylidene)-2H-1,4-benzothiazine-3(4H)-one (3.0 g) in methyl ethyl ketone (10 ml) was treated with sodium hydroxide (0.98 g) at 80° C. for 30 minutes. The reaction mixture was cooled to room temperature and added with dimethylaminoethyl chloride (1.7 g), refluxed for 3 hours and cooled to 30° C. The organic layer was washed with 20 ml of water two times, dried and evaporated under reduced pressure. The residue was dissolved in 20 ml of isopropyl alcohol and added with 0.9 ml of conc. HCl. The resulted precipitates were filtered and recrystallized from 30 ml of isopropyl alcohol to give 2-(2,4-Dichlorophenylmethylidene)-4-(2-dimethylaminoethyl)-2H-1,4-benzothiazine hydrochloride as yellow crystals. m.p. 238° to 242° C.

reactant | 2-(2,4-Dichlorophenylmethylidene)-2H-1,4-benzothiazine-3(4H)-one | 3.0 g | ClC1=C(C=CC(=C1)Cl)C=C1SC2=C(NC1=O)C=CC=C2 | C15H9Cl2NOS
reactant | sodium hydroxide | 0.98 g | [OH-].[Na+]
reactant | dimethylaminoethyl chloride | 1.7 g | CN(C)CCCl | C4H10ClN
solvent | methyl ethyl ketone | 10 ml | C(C)C(=O)C | C4H8O
product | 2-(2,4-Dichlorophenylmethylidene)-4-(2-dimethylaminoethyl)-2H-1,4-benzothiazine hydrochloride | Cl.ClC1=C(C=CC(=C1)Cl)C=C1SC2=C(N(C1)CCN(C)C)C=CC=C2 | InChI=1S/C19H20Cl2N2S.ClH/c1-22(2)9-10-23-13-16(24-19-6-4-3-5-18(19)23)11-14-7-8-15(20)12-17(14)21;/h3-8,11-12H,9-10,13H2,1-2H3;1H
